US05710336
4-[2-(2,3-Dimethoxyphenyl)-ethyl]-N-methyl-2,5-oxazolidinedione
18.5 g of 4-(2,3-dimethoxyphenyl)-2-(N-methyl-N-benzyloxycarbonyl-amino)-butyric acid (0.048 mole) and 28.7 g of thionyl chloride are placed into a 250 ml round-bottomed flask, refluxing for 2 hours then distilling off under vacuum the thionyl chloride until obtaining a thick oil. The oil is taken up into 100 ml of hexane, stirring until solidification, then it is decanted and triturated with 100 ml more of hexane, filtered and dried under vacuum at 30° C. to obtain a fine crystalline powder. Yield: 12.5 g, 93% (moles), 68% (weight).

reactant | 4-(2,3-dimethoxyphenyl)-2-(N-methyl-N-benzyloxycarbonyl-amino)-butyric acid | 0.048 mole, 18.5 g | COC1=C(C=CC=C1OC)CCC(C(=O)O)N(C(=O)OCC1=CC=CC=C1)C | C21H25NO6
reactant | thionyl chloride | 28.7 g | S(=O)(Cl)Cl | Cl2OS
solvent | hexane | 100 ml | CCCCCC | C6H14
product | 4-[2-(2,3-Dimethoxyphenyl)-ethyl]-N-methyl-2,5-oxazolidinedione | COC1=C(C=CC=C1OC)CCC1N(C(OC1=O)=O)C | C14H17NO5
